US04145347
From 12.8 g. of ethyl 2-oxo-1-pyrrolidineacetate and 15.3 g. of 3-(dimethylamino)propylamine (U.S. Pat. No. 2,459,080), following the procedure of Example 1, there is obtained N-[3-(dimethylamino)propyl]-2-oxo-1-pyrrolidineacetamide; b.p. 157°-159° C./0.15 mm.

reactant | ethyl 2-oxo-1-pyrrolidineacetate | O=C1N(CCC1)CC(=O)OCC | C8H13NO3
reactant | 3-(dimethylamino)propylamine | CN(CCCN)C | C5H14N2
product | N-[3-(dimethylamino)propyl]-2-oxo-1-pyrrolidineacetamide | CN(CCCNC(CN1C(CCC1)=O)=O)C | C11H21N3O2
